US07652032B2
6-[(2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranosyl)oxy]-1H-indole-1-carboxylic Acid, 1,1-dimethylethyl Ester
A solution of 2.66 g (11.41 mM) of 6-hydroxy-1H-indole-1-carboxylic acid tert-butyl ester in 50 ml of THF, 4.16 g (20.6 mM) of diisopropylazodicarboxylate and 5.39 g (20.6 mM) of triphenylphosphine are added to a solution of 4.34 g (14.84 mM) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranose in 150 ml of THF. The reaction mixture is stirred at 50° C. for 4 hours and then concentrated under reduced pressure. The evaporation residue is solubilized in ethyl acetate and the organic phase is washed with a 1N solution of sodium hydroxide and then with a concentrated aqueous solution of ammonium chloride. The organic phase is subsequently dried over magnesium sulfate and concentrated under reduced pressure. The evaporation residue is purified by silica gel chromatography, elution being carried out with a methylcyclohexane/ethyl acetate mixture (gradient of 9/1 to 7/3; v/v). The residue obtained is subsequently purified by C18-grafted silica chromatography, elution being carried out with an acetonitrile/water mixture (6/4; v/v). The desired product is obtained in the form of a white solid with a yield of 3%.

reactant | 6-hydroxy-1H-indole-1-carboxylic acid tert-butyl ester | 11.41 mM, 2.66 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)O | C13H15NO3
reactant | diisopropylazodicarboxylate | 20.6 mM, 4.16 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 20.6 mM, 5.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranose | 14.84 mM, 4.34 g | C(C)(=O)O[C@H]1C(O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C11H16O7S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 6-[(2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranosyl)oxy]-1H-indole-1-carboxylic Acid, 1,1-dimethylethyl Ester | yield of 3% | C(C)(=O)O[C@H]1[C@@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)OC1=CC=C2C=CN(C2=C1)C(=O)OC(C)(C)C | C24H29NO9S
